US08470859B2
5-chloro-1-[4-chloro-2-(methylsulfonyl)benzyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
To a solution of 2-amino-5-chloronicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 1-(bromomethyl)-4-chloro-2-(methylsulfonyl)benzene (0.37 g), and the mixture was stirred at 100° C. for 14 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was collected by filtration and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (50 mg).

reactant | 2-amino-5-chloronicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 1-(bromomethyl)-4-chloro-2-(methylsulfonyl)benzene | 0.37 g | BrCC1=C(C=C(C=C1)Cl)S(=O)(=O)C | C8H8BrClO2S
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-1-[4-chloro-2-(methylsulfonyl)benzyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | 50 mg | Br.ClC=1C=C(C(N(C1)CC1=C(C=C(C=C1)Cl)S(=O)(=O)C)=N)C(=O)N | InChI=1S/C14H13Cl2N3O3S.BrH/c1-23(21,22)12-5-9(15)3-2-8(12)6-19-7-10(16)4-11(13(19)17)14(18)20;/h2-5,7,17H,6H2,1H3,(H2,18,20);1H
